US08835449B2
(Z)-Ethyl 3-((2-amino-2-oxoethyl)amino)-3-(5-chloro-2-methoxyphenyl)acrylate
A 5-L reaction vessel was charged with methanol (3.3 L), sodium methoxide (102.4 g, 1.8 moles), and glycinamide hydrochloride (202 g, 1.8 moles). The mixture was heated at 65° C. for 1 hour before cooling to 50° C. and adding acetic acid (514.25 mmoles, 30.88 g, 29.47 mL) and ethyl 3-(5-chloro-2-methoxyphenyl)-3-oxopropanoate (300 g, 1.03 mole). After heating to reflux for 16 hours, the reaction mixture was stirred as it was cooled to 10° C. After 30 min the resulting solid was collected by vacuum filtration, pulling dry to form a cake that was dried in a vacuum oven (20 mm Hg, 65° C.) for 14 hours to afford the title compound (339.4 g).

reactant | sodium methoxide | 1.8 moles, 102.4 g | C[O-].[Na+]
reactant | glycinamide hydrochloride | 1.8 moles, 202 g | Cl.NCC(=O)N
reactant | acetic acid | 514.25 mmoles, 29.47 mL, 30.88 g | C(C)(=O)O | C2H4O2
reactant | ethyl 3-(5-chloro-2-methoxyphenyl)-3-oxopropanoate | 1.03 mole, 300 g | ClC=1C=CC(=C(C1)C(CC(=O)OCC)=O)OC | C12H13ClO4
solvent | methanol | 3.3 L | CO | CH4O
product | (Z)-Ethyl 3-((2-amino-2-oxoethyl)amino)-3-(5-chloro-2-methoxyphenyl)acrylate | 339.4 g | NC(CN\C(=C/C(=O)OCC)\C1=C(C=CC(=C1)Cl)OC)=O | C14H17ClN2O4
